US04125732
2-(p-Fluorophenoxy)propionic acid
To a stirred slurry of 8.3 g of sodium hydride (57° 10 NaH in oil) in 100 ml of dry 1,2-dimethoxyethane at 5° C. is added 15.3 g of 2-bromopropionic acid in 50 ml of 1,2-dimethoxyethane and 10.5 g of 4-fluorophenol in 50 ml of 1,2-dimethoxyethane. The mixture is refluxed for 6 hrs, cooled and filtered. The solid is partitioned between dichloromethane and 1N HCl. The organic layer is dried (MgSO4) and concentrated to 50 ml. The mixture is filtered to give 10.4 g of product, mp 113°-115° C.

reactant | sodium hydride | 8.3 g | [H-].[Na+]
reactant | 2-bromopropionic acid | 15.3 g | BrC(C(=O)O)C | C3H5BrO2
reactant | 4-fluorophenol | 10.5 g | FC1=CC=C(C=C1)O | C6H5FO
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | 2-(p-Fluorophenoxy)propionic acid | 10.4 g | FC1=CC=C(OC(C(=O)O)C)C=C1 | C9H9FO3
